US05827887
N,N-bis-(isopropyl)-2-(4-iodophenoxy)-acetamide
1.38 g of 50% sodium hydride suspended in oil were added under an inert gas atmosphere to a solution of 5.2 g of paraiodophenol in 30 ml of tetrahydrofuran and after stirring at 0° C., then 6.30 g of N,N-bis-(isopropyl)-2-bromo-acetamide (Preparation 8) were added. After stirring for 2 hours while allowing the temperature to rise to 20° C., the reaction medium was poured into ice-cooled water and filtration was carried out followed by drying to obtain 9.3 g of the expected product.

reactant | sodium hydride | 1.38 g | [H-].[Na+]
reactant | paraiodophenol | 5.2 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | N,N-bis-(isopropyl)-2-bromo-acetamide | 6.30 g | C(C)(C)N(C(CBr)=O)C(C)C | C8H16BrNO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N,N-bis-(isopropyl)-2-(4-iodophenoxy)-acetamide | 9.3 g | C(C)(C)N(C(COC1=CC=C(C=C1)I)=O)C(C)C | C14H20INO2
